US07842688B2
f) Benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-[4-(2-hydroxyethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The solution of 2.0 g of benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-[3-oxo-4-(2-triisopropylsilanyloxyethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 30 ml of tetrahydrofuran is admixed with 2.30 ml of tetrabutylammonium fluoride solution (1M in tetrahydrofuran) and stirred at 60° C. over 30 minutes. The reaction mixture is cooled, poured onto water (100 ml) and extracted with tert-butyl methyl ether (2×100 ml). The organic phases are washed with brine (1×100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a white foam from the residue by means of flash chromatography (SiO2 60F). Rf=0.10 (1:1 EtOAc-heptane); Rt=5.43.

reactant | benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-[3-oxo-4-(2-triisopropylsilanyloxyethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 2.0 g | FC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(C(CO3)=O)CCO[Si](C(C)C)(C(C)C)C(C)C)C2)C=C(C=C1)F | C48H60F2N2O8Si
reactant | tetrabutylammonium fluoride | 1M, 2.30 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-[4-(2-hydroxyethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | FC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(C(CO3)=O)CCO)C2)C=C(C=C1)F | C39H40F2N2O8
